* Component: /home/ece_lab/mentor/ECE4500/Lab6/SRFlipFlop_Lab6  Viewpoint: eldonet
.INCLUDE /home/ece_lab/mentor/ECE4500/Lab6/SRFlipFlop_Lab6/eldonet/SRFlipFlop_Lab6_eldonet.spi
.INCLUDE /home/ece_lab/mentor/mgc/mit_0.25.lib
.OPTION NOASCII
.OPTION MODWL
.OPTION ENGNOT
.OPTION AEX

* --- Singles

* - Analysis Setup - DC
.DC V2 2.5 0 -0.00001

* --- Waveform Outputs
.PROBE DC V(CLK_18) V(QN_18) V(QN_NOT_18) V(R_18) V(S_18)

* --- Params
.TEMP 27

* --- Forces
VFORCE__CLK_2 CLK_18 VSS pattern 2.5 0 0 1e-12 1e-12 1e-08 1 R
VFORCE__S_2 S_18 VSS pattern 2.5 0 0 1e-12 1e-12 1e-08 0 R

* --- Libsetup

